US06306895B1
To a solution of (6S)-7-(4-fluorophenoxy)-heptane-1,6-diol (3.6 g, 14.8 mmol) in dry THF (60 ml) was added dropwise a solution of 2-iodobenzoic acid (5 g, 17.8 mmol) in dry DMSO (4 ml) over a period of 25 minutes at room temperature. After 15 minutes the reaction mixture was decomposed with crushed ice, filtered through celite and concentrated. The residue was extracted with ethylether, washed with brine, dried over Na2SO4 and the organic solvent was removed under reduced pressure. The residue was purified by silica gel chromatography using EtOAc-hexane (1:9) to give (6S)-7-(4-fluorophenoxy)-6-hydroxy-heptanal (2.2 g, 61.6%); [α]D+12 (c 3.8, CHCl3), 1H-NMR (CDCl3, 200 Hz): δ 1.4-1.8 (m, 6H), 2.49 (dt, 2H), 3.71-4.05 (m, 4H), 6.782-7.02 (m, 4H), 9.8 (s, 1H); HRMS (FAB): calcd. for C13H17O3F (M+) 240.116173 found 240.116465.

reactant | (6S)-7-(4-fluorophenoxy)-heptane-1,6-diol | 14.8 mmol, 3.6 g | FC1=CC=C(OC[C@H](CCCCCO)O)C=C1 | C13H19FO3
reactant | 2-iodobenzoic acid | 17.8 mmol, 5 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
product | (6S)-7-(4-fluorophenoxy)-6-hydroxy-heptanal | 2.2 g, 61.6% | FC1=CC=C(OC[C@H](CCCCC=O)O)C=C1 | C13H17FO3
